chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Cl-:2].[F:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23]>>[Cl:2][C@@:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[F-:1],51.16444358372493
[Cl:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[F-:2]>>[Cl-:1].[F:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22],6.405425966935907
[Br-:2].[Cl:1][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]#[N:12])[C:21]#[N:22]>>[Br:2][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]#[N:12])[C:21]#[N:22].[Cl-:1],18.749268626252533
[Br:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([C:11]#[N:12])[C:21]#[N:22].[H-:2]>>[Br-:1].[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([N:31]([H:32])[H:33])[C:41]#[N:42].[H:2][H:3],3.902981766928456
[Br:1][C:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24].[Cl-:2]>>[Br-:1].[C:4](=[C:5]([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24])([H:31])[H:41].[Cl:2][H:3],30.841194356814977
[F:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[C:4](=[C:5]([N:11]([H:12])[H:13])[N:21]([H:22])[H:23])([N:31]([H:32])[H:33])[H:41].[F-:1].[H:2][H:3],20.375206685507905
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[N:21]([H:22])[H:23]>>[Cl-:1].[Cl:2][C@@:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[N:21]([H:22])[H:23],33.52848624747964
[Cl-:2].[F:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22]>>[Cl:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[F-:1],41.54882791209781
[F-:2].[F:1][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([H:11])[H:21]>>[F-:1].[F:2][C:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([H:11])[H:21],34.2748602400837
[Cl:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5](/[N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23])(\[C:31]#[N:32])[N:41]([H:42])[H:43].[Cl-:1].[H:2][H:3],4.501345467304837
[Br-:2].[Cl:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[H:21]>>[Br:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[H:21].[Cl-:1],38.93756029620893
[Br-:2].[Br:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([H:11])[C:21]([H:22])([H:23])[H:24]>>[Br-:1].[Br:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([H:11])[C:21]([H:22])([H:23])[H:24],25.12705108824056
[Cl-:2].[Cl:1][C:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([H:11])[H:21]>>[C:4](=[C:5]([H:11])[H:21])([H:31])[C:41]#[N:42].[Cl-:1].[Cl:2][H:3],35.61264754514141
[F:1][C@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[H-:2]>>[C:4](=[C:5]([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23])([H:31])[H:41].[F-:1].[H:2][H:3],17.133179490966878
[Cl:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[N:21]([H:22])[H:23].[F-:2]>>[Cl-:1].[F:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[N:21]([H:22])[H:23],24.159838325621752
[F:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[F-:1].[H:2][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],31.684453886270425
[Br:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([H:11])[N+:21]([O-:22])[O:23].[Cl-:2]>>[Br-:1].[Cl:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([H:11])[N+:21]([O-:22])[O:23],26.963037251792056
[Cl-:2].[F:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21]>>[Cl:2][C:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[F-:1],40.37902805462204
[Cl:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N:11]([H:12])[H:13])[C:21]#[N:22].[H-:2]>>[Cl-:1].[H:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N:11]([H:12])[H:13])[C:21]#[N:22],11.986786961708734
[Br-:2].[Cl:1][C@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23]>>[Br:2][C@@:5]([C@:4]([H:3])([C:31]([H:32])([H:33])[H:34])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23].[Cl-:1],45.1299483822778
[Br:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[N:21]([H:22])[H:23].[F-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]#[N:12])[N:21]([H:22])[H:23])(\[C:31]#[N:32])[C:41]([H:42])([H:43])[H:44].[F:2][H:3],1.9786534923465915
